US06635655B1
(4-Chloro-2,6-dimethyl-phenoxy)-acetonitrile
4-Chloro-2,6-dimethylphenol (5.0 g, 32 mmol), bromoacetonitrile (2.2 mL, 32 mmol) and potassium carbonate (6.6 g, 48 mmol) are combined with acetone (50 mL) and heated at reflux for 18 h. The reaction is filtered, concentrated and the residue partitioned between dichloromethane and water. The organic phase is washed with 1N HCl and water and is then dried over magnesium sulfate, concentrated and purified by column chromatography (silica, 10% ethyl acetate in hexanes) to provide the title compound. MS (EI) 195 (M)+, Cl pattern.

reactant | 4-Chloro-2,6-dimethylphenol | 32 mmol, 5.0 g | ClC1=CC(=C(C(=C1)C)O)C | C8H9ClO
reactant | bromoacetonitrile | 32 mmol, 2.2 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 48 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (4-Chloro-2,6-dimethyl-phenoxy)-acetonitrile | ClC1=CC(=C(OCC#N)C(=C1)C)C | C10H10ClNO
